US07521461B2
Methyl 2-[(3-{2-[4-(benzyloxy)phenoxy]ethyl}phenoxy)methyl]benzoate (20 mg, 0.043 mmol) was dissolved in a mixture of THF/H2O (7/1, 3 ml) and LiOH (4.1 mg, 0.17 mmol) was added. The reaction was performed in a single node microwave oven (7 min, 150° C.). The mixture was acidified (HCl, 1 ml, 1M) and the water phase washed with two portions of EtOAc (3×5 ml). After removing the solvent by evaporation the crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min)). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). Removing the solvent by evaporation gave 19 mg of 2-[(3-{2-[4-(benzyloxy)phenoxy]ethyl}phenoxy)methyl]benzoic acid (yield 98%).

reactant | Methyl 2-[(3-{2-[4-(benzyloxy)phenoxy]ethyl}phenoxy)methyl]benzoate | 0.043 mmol, 20 mg | C(C1=CC=CC=C1)OC1=CC=C(OCCC=2C=C(OCC3=C(C(=O)OC)C=CC=C3)C=CC2)C=C1 | C30H28O5
reactant | LiOH | 0.17 mmol, 4.1 mg | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF water | 3 ml | C1CCOC1.O
product | 2-[(3-{2-[4-(benzyloxy)phenoxy]ethyl}phenoxy)methyl]benzoic acid | 19 mg, yield 98% | C(C1=CC=CC=C1)OC1=CC=C(OCCC=2C=C(OCC3=C(C(=O)O)C=CC=C3)C=CC2)C=C1 | C29H26O5
